US04022798
2-[5-(4-Nitrophenyl)-2-furyl]imidazoline Hydrochloride
A mixture of 39 g (0.13 mole) of ethyl 5-(4-nitrophenyl)-2-furimidate hydrochloride and 8.6 g (0.14 mole) of ethylenediamine in 400 ml of absolute ethanol was heated under reflux for 61/2 hr and stood in a refrigerator overnight. The yellow solid was collected by filtration and washed with anhydrous ether to give 33 g (85%) of product, m.p. > 300°.

reactant | ethyl 5-(4-nitrophenyl)-2-furimidate hydrochloride | 0.13 mole, 39 g | Cl.[N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(O1)C(OCC)=N
reactant | ethylenediamine | 0.14 mole, 8.6 g | C(CN)N | C2H8N2
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 2-[5-(4-Nitrophenyl)-2-furyl]imidazoline Hydrochloride | 33 g, 85% | Cl.[N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(O1)C=1NCCN1 | InChI=1S/C13H11N3O3.ClH/c17-16(18)10-3-1-9(2-4-10)11-5-6-12(19-11)13-14-7-8-15-13;/h1-6H,7-8H2,(H,14,15);1H
